datasets/10k__Tet_Int.csv
SMILES Labelled
"[H][S:10]C([H])C([H])[O][C:20]([S]CC)=[O+:21]C.[Cl-]>>[Cl-].[H][S+:10](C([H])C([H])[O]1)[C:20]1([O:21]C)[S]CC 10=20;20,21=21"
"C[NH+:21]=[C:20]2[NH][CH](C)[CH](C)C(C8=CC=CC=C8)[O]2.C[NH:10][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]1([NH:21]C)[NH][CH](C)C(C)[CH](C8=CC=CC=C8)[O]1 10=20;20,21=21"
"CC1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21]C)CCCCCC)C>>CC1C(C(O[C:20](=[O:10])N1CCCCCC)CCCCCC)C.[O-:21]C 10=20;20,21=21"
"[H][O+:10]([H])[C:20]1([O:21][H])[O][CH](CC)C([H])[CH]([H])[O]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[O][CH](CC)[CH]([H])C([H])[O]2.[H][O:10][H] 21=20;20,10=10"
"C[O:10][H].[H][O+:21]=[C:20]([S][H])[S]CC.[Cl-]>>[Cl-].C[O+:10]([H])[C:20]([O:21][H])([S][H])[S]CC 10=20;20,21=21"
"C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21][H])[NH]C(CC)C(CC)[O]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[NH]C(CC)C(CC)[O]2.C9=CC=CC=C9[NH:10][H] 21=20;20,10=10"
"C9=CC=CC=C9[O+:10]([H])[C:20]([O:21][Si](C)(C)(C))([O]C8=CC=CC=C8)[S]C.[Cl-]>>[Cl-].C9=CC=CC=C9[O:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([O]C8=CC=CC=C8)[S]C 21=20;20,10=10"
"CN([C:20](=[O:10])OC(C(C([O-:21])C)CCCCCC)CCCCCC)CC>>CN([C:20]1(OC(C(C([O:21]1)C)CCCCCC)CCCCCC)[O-:10])CC 21=20;20,10=10"
"[H][O:10]C(CC)C(C)C(C8=CC=CC=C8)[O][C:20]([O]C)=[O+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(CC)C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([O:21]C)[O]C 10=20;20,21=21"
"CC[S+:10]([H])[C:20]([O:21]C)([S]C)[S]C7=CC=CC=C7.[Cl-]>>[Cl-].CC[S:10][H].C[O+:21]=[C:20]([S]C)[S]C7=CC=CC=C7 21=20;20,10=10"
"[H][S+:10](C([H])C([H])[S]1)[C:20]1([O:21][Si](C)(C)(C))[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][S:10]C([H])C([H])[S][C:20]([O]C7=CC=CC=C7)=[O+:21][Si](C)(C)(C) 21=20;20,10=10"
"C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)[H])CCCCCC.[O-:21]CC>>C1=CC=CC=C1C1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]CC)[H])CCCCCC 21=20;20,10=10"
"[H][O:10]C(CC)C(CC)[O][C:20]([O]C)=[O+:21][Si](C)(C)(C).[Cl-]>>[Cl-].[H][O+:10](C(CC)C(CC)[O]1)[C:20]1([O:21][Si](C)(C)(C))[O]C 10=20;20,21=21"
"[H][O:10]C(C9=CC=CC=C9)C(C)C(C)[O][C:20]([NH]C)=[NH+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C(C)C(C)[O]1)[C:20]1([NH:21][H])[NH]C 10=20;20,21=21"
"C[NH:10][H].C6=CC=CC=C6[NH+:21]=[C:20]([O][H])[NH]C.[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]([NH:21]C6=CC=CC=C6)([O][H])[NH]C 10=20;20,21=21"
"C9=CC=CC=C9[O+:10]([H])[C:20]([NH:21]CC)([NH]C)[NH][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O:10][H].CC[NH+:21]=[C:20]([NH]C)[NH][H] 21=20;20,10=10"
"CCN([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)C)C)[H]>>CCN([C:20]1(OC(C(C([O:21]1)CCCCCC)C)C)[O-:10])[H] 21=20;20,10=10"
"CCN([C:20](=[O:10])OC(C([O-:21])CC)[H])C1=CC=CC=C1>>CCN([C:20]1(OC(C([O:21]1)CC)[H])[O-:10])C1=CC=CC=C1 21=20;20,10=10"
"CC1C(C(O[C:20](=[O:10])N1CC)C)C.[O-:21]CCCCCC>>CC1C(C(O[C:20](N1CC)([O-:10])[O:21]CCCCCC)C)C 21=20;20,10=10"
"CC[O+:10]([H])[C:20]1([O:21][H])[O][CH]([H])C(C)[CH]([H])[S]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[O][CH]([H])[CH](C)C([H])[S]2.CC[O:10][H] 21=20;20,10=10"
"[H][NH:10]C(C9=CC=CC=C9)C(C)C(CC)[O][C:20]([NH]C7=CC=CC=C7)=[NH+:21]CC.[Cl-]>>[Cl-].[H][NH+:10](C(C9=CC=CC=C9)C(C)C(CC)[O]1)[C:20]1([NH:21]CC)[NH]C7=CC=CC=C7 10=20;20,21=21"
"[O-:21][C:20]1([H])C(C)=C(C)C(C)C(CCC)[O+:10]1([Na])>>[O:10]([Na])C(CCC)C(C)/C(C)=C(C)\[C:20]([H])=[O:21] 21=20;20,10=10"
"C[NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH]([H])C(CC)[NH]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]C)[O][CH](C7=CC=CC=C7)C([H])[CH](CC)[NH]1 10=20;20,21=21"
"C9=CC=CC=C9[O:10][H].C[O+:21]=[C:20]([O]C)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]([O:21]C)([O]C)[O]C7=CC=CC=C7 10=20;20,21=21"
"[O-:21][C:20]1(OCC)C(O)C(C)C(C)C(CC)[NH+:10]1(C)>>[NH:10](C)C(CC)C(C)C(C)C(O)[C:20](OCC)=[O:21] 21=20;20,10=10"
"[H][NH+:10]([H])[C:20]([NH:21]C)([NH]CC)[O]CC.[Cl-]>>[Cl-].[H][NH:10][H].C[NH+:21]=[C:20]([NH]CC)[O]CC 21=20;20,10=10"
"[H]C1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]CCCCCC)CC)CCCCCC>>[H]C1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)CC)CCCCCC.[O-:21]CCCCCC 10=20;20,21=21"
"[H][O+:10](C(CC)C([H])[O]1)[C:20]1([NH:21]C)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(CC)C([H])[O][C:20]([O]C7=CC=CC=C7)=[NH+:21]C 21=20;20,10=10"
"[O:10]([K])C(C)C(C)C(O)C(O)[C:20]([H])=[O:21]>>[O-:21][C:20]1([H])C(O)C(O)C(C)C(C)[O+:10]1([K]) 10=20;20,21=21"
"[H][S+:10](C(C)C([H])[O]1)[C:20]1([O:21]C)[S]CC.[Cl-]>>[Cl-].[H][S:10]C(C)C([H])[O][C:20]([S]CC)=[O+:21]C 21=20;20,10=10"
"[H][S+:10](C(CC)C([H])C(C)[S]1)[C:20]1([O:21][H])[S]CC.[Cl-]>>[Cl-].[H][S:10]C(CC)C([H])C(C)[S][C:20]([S]CC)=[O+:21][H] 21=20;20,10=10"
"[H][O:10]C(C)C(C)C([H])[O][C:20]([O]C7=CC=CC=C7)=[NH+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(C)C(C)C([H])[O]1)[C:20]1([NH:21]C)[O]C7=CC=CC=C7 10=20;20,21=21"
"C1(C(O[C:20]([O-:10])([O:21]C1CCCCCC)OC)C)C1=CC=CC=C1>>C(C([O-:21])CCCCCC)(C(O[C:20](=[O:10])OC)C)C1=CC=CC=C1 10=20;20,21=21"
"C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]C)[NH]C(C)C(C8=CC=CC=C8)[NH]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[NH]C(C)C(C8=CC=CC=C8)[NH]2.C9=CC=CC=C9[NH:10][H] 21=20;20,10=10"
"CCCCCCN([C:20](=[O:10])OCCCCCC)C1=CC=CC=C1.[O-:21]C1=CC=CC=C1>>CCCCCCN([C:20]([O-:10])(OCCCCCC)[O:21]C1=CC=CC=C1)C1=CC=CC=C1 21=20;20,10=10"
